US07642264B2
2-[4-(3-Methanesulfonyl-phenyl)-imidazol-1-yl]-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine
A stirred mixture of 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (Example G.1) (0.155 g, 0.24 mmol), commercially available 3-bromo-phenylmethyl sulfone (0.062 g, 0.26 mmol), tetrakis(triphenyl-phosphine)palladium (0.017 g, 0.015 mmol) in toluene (5 mL) was heated under reflux conditions for 15 h. Heptane (5 mL) was added at room temperature and the mixture was stirred for 1 h. The precipitate was collected by filtration, washed with heptane and dried. Further purification by flash chromatography on silica gel (ethyl acetate/heptane) and crystallization (dichloromethane/hexane) yielded the title compound (0.078 g, 64%) as a white solid. MS (ISP) 512.9 [(M+H)+]; mp 231° C.

reactant | 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 0.24 mmol, 0.155 g | C(CCC)[Sn](C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(CCCC)CCCC
reactant | 3-bromo-phenylmethyl sulfone | 0.26 mmol, 0.062 g | BrC=1C=C(C=CC1)CS(=O)(=O)CC1=CC(=CC=C1)Br | C14H12Br2O2S
reactant | Heptane | 5 mL | CCCCCCC | C7H16
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(3-Methanesulfonyl-phenyl)-imidazol-1-yl]-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 0.078 g, 64% | CS(=O)(=O)C=1C=C(C=CC1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C22H14F6N4O2S
